US05880135
5-Amino-6-methylisoquinoline (Compound 28)
By carrying out the preparation according to Stages 1 and 2 of PREPARATION IX above and by using 4-methylbenzaldehyde as starting reactant, 6-methyl-5-nitroisoquinoline is prepared. 4.0 g of 6-methyl-5-nitroisoquinoline are dissolved in a solution of 80 ml of acetic acid and 40 ml of concentrated hydrochloric acid, 40.0 g of tin chloride are then added and the reaction mixture is heated at reflux for 3 hours and then left for 12 hours at room temperature. The crystals formed are filtered off, taken up in water and basified with 10N sodium hydroxide. The extraction is carried out with dichloromethane and the organic phase is dried and evaporated to dryness to obtain 0.52 g of yellow crystals. 1H NMR (CDCl3): 2.37 (s, 3H, --CH3), 4.18 (broad s exchangeable with D2O, 2H, --NH2), 7.29 (d, J=8.8, 1H, H7), 7.44 (d, J=8.8, 1H, H4), 7.53 (d, J=6.2, 1H, H8), 8.49 (d, J=5.8, 1H, H3), 9.13 (s, 1H, H1).

reactant | 4-methylbenzaldehyde | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | 6-methyl-5-nitroisoquinoline | CC=1C(=C2C=CN=CC2=CC1)[N+](=O)[O-] | C10H8N2O2
reactant | 6-methyl-5-nitroisoquinoline | 4.0 g | CC=1C(=C2C=CN=CC2=CC1)[N+](=O)[O-] | C10H8N2O2
reactant | tin chloride | 40.0 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 40 ml | Cl | ClH
product | 5-Amino-6-methylisoquinoline | 0.52 g | NC1=C2C=CN=CC2=CC=C1C | C10H10N2
